US04457922
Preparation of bis [4-[(ethoxy)(propylthio)phosphoryloxy]phenyl]sulfide
To a 250 ml round bottom flask was added 4,4'-thiodiphenol (4.36 g, 20 mmol), O-ethyl S-n-propyl phosphorochloridothioate (9.12 g, 45 mmol), powdered potassium hydroxide (3.37 g, 60 mmol), dicyclohexano-18-crown-6 (catalytic quantity), and acetonitrile. This mixture was refluxed 14 hours, cooled to room temperature, and the organic soluble fraction decanted from the solids. The organic solution was diluted with ether and successively washed with 4M NaOH (3×100 ml), water (2×50 ml), 5% HCl (1×50 ml), water (2×50 ml), and brine (2×50 ml). After drying (MgSO4) the solution was concentrated under reduced pressure to give a colorless oil (4.8 g, 7.6 mmol).

reactant | 4,4'-thiodiphenol | 20 mmol, 4.36 g | S(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C12H10O2S
reactant | O-ethyl S-n-propyl phosphorochloridothioate | 45 mmol, 9.12 g | P(OCC)(SCCC)(Cl)=O | C5H12ClO2PS
reactant | potassium hydroxide | 60 mmol, 3.37 g | [OH-].[K+]
reactant | dicyclohexano-18-crown-6 | C1CCC2C(C1)OCCOCCOC3CCCCC3OCCOCCO2 | C20H36O6
solvent | acetonitrile | C(C)#N | C2H3N
product | bis [4-[(ethoxy)(propylthio)phosphoryloxy]phenyl]sulfide | 7.6 mmol, 4.8 g | C(C)OP(=O)(SCCC)OC1=CC=C(C=C1)SC1=CC=C(C=C1)OP(=O)(SCCC)OCC | C22H32O6P2S3
